US07491730B2
[6-tert-Butyl-2-(2-trifluoromethyl-phenyl)-pyrimidin-4-yl]-(1H-pyrazolo[3,4-b]pyridin-3-yl)-amine (I-3)
A mixture of 4-chloro-6-tert-butyl-2-(2-trifluoromethylphenyl)-pyrimidine (0.10 g, 0.32 mmol) and 1H-pyrazolo[3,4-b]pyridin-3-ylamine (0.064 g, 0.48 mmol) was heated neat at 160-170° C. for 16 hours. The resulting residue was cooled, dissolved in N-methyl-pyrrolidinone (2 mL), then poured into water (20 mL) and sodium bicarbonate (5 mL) and extracted twice with ethyl acetate. The combined organic layers were washed four times with water, once with brine, then dried over sodium sulfate and concentrated. The crude product was purified by preparative HPLC to provide the title compound (0.007 g, 4% yield) as a yellow solid. 1H-NMR (500 MHz, DMSO-d) δ 13.2 (br s, 1H), 10.6 (br s, 1H), 8.49 (m, 2H), 7.84 (d, J=7.8 Hz, 2H), 7.76 (m, 2H), 7.68 (m, 1H), 7.12 (m, 1H), 1.32 (s, 9H) ppm; LC-MS 413.08 (M+H); Rt (Method A) 3.112 minutes.

reactant | 4-chloro-6-tert-butyl-2-(2-trifluoromethylphenyl)-pyrimidine | 0.32 mmol, 0.10 g | ClC1=NC(=NC(=C1)C(C)(C)C)C1=C(C=CC=C1)C(F)(F)F | C15H14ClF3N2
reactant | 1H-pyrazolo[3,4-b]pyridin-3-ylamine | 0.48 mmol, 0.064 g | N1N=C(C=2C1=NC=CC2)N | C6H6N4
reactant | water | 20 mL | O | H2O
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
solvent | N-methyl-pyrrolidinone | 2 mL | CN1C(CCC1)=O | C5H9NO
product | [6-tert-Butyl-2-(2-trifluoromethyl-phenyl)-pyrimidin-4-yl]-(1H-pyrazolo[3,4-b]pyridin-3-yl)-amine | 0.007 g, 4% yield | C(C)(C)(C)C1=CC(=NC(=N1)C1=C(C=CC=C1)C(F)(F)F)NC1=NNC2=NC=CC=C21 | C21H19F3N6
